US06251925B1
2-(3-Nitrophenyl)-4-pyridinecarboxylic acid ethyl ester as a white solid (355 mg);
Electrospray MS (positive ion): (M+H) 272.8; from 2-bromo4-pyridinecarboxylic acid ethyl ester (900 mg), tetrakis(triphenylphosphine)paliadium (136 mg), and 3-nitrophenylboronic acid (783 mg).

reactant | 2-bromo4-pyridinecarboxylic acid ethyl ester | 900 mg | C(C)OC(=O)C1=CC(=NC=C1)Br | C8H8BrNO2
reactant | 3-nitrophenylboronic acid | 783 mg | [N+](=O)([O-])C=1C=C(C=CC1)B(O)O | C6H6BNO4
product | 2-(3-Nitrophenyl)-4-pyridinecarboxylic acid ethyl ester | C(C)OC(=O)C1=CC(=NC=C1)C1=CC(=CC=C1)[N+](=O)[O-] | C14H12N2O4
